US09227955B2
Preparation of 2-(1-Benzylpiperidin-4-ylamino)-N-(3-chlorophenyl)nicotinamide [103]
A solution of 2-chloro-(N-3-chlorophenyl)nicotinamide (280 mg, 1.05 mmol, 1.05 eq) prepared in Preparation Example 5, 4-amino-1-benzylpiperidine (1.0 mmol), and anhydrous potassium carbonate (1.3 mmol) in ortho-xylene was stirred for 24 hrs under reflux. The reaction mixture was cooled to a room temperature, added with ethylacetate, and extracted twice with 1N HCl. The aqueous layer thus formed was washed with 30 ml of ethylacetate, adjusted to a pH of about 9-10 by adding 2 N sodium hydroxide, and extracted two or three times with 20 ml of methylene chloride. The organic layer was dried over a desiccant, and concentrated in a reduced pressure. A desired fraction obtained by purification through silica gel chromatography was concentrated in a reduced pressure and dried in a vacuum to afford the title compound. Yield: 66.5% 1H NMR (DMSO-d6) δ8.15˜8.30 (m, 2H), 8.03 (d, 1H), 7.90 (s, 1H), 7.66 (d, 1H), 7.60 (d, 1H), 7.30˜7.60 (m, 6H), 7.19 (d, 1H), 6.70 (m, 1H), 4.10 (bs, 1H), 3.95 (s, 1H), 2.85˜3.15 (m, 2H), 2.70˜2.85 (m, 2H), 1.90˜2.15 (m, 2H), 1.60˜1.85 (m, 2H) ppm.

reactant | 2-chloro-(N-3-chlorophenyl)nicotinamide | 1.05 mmol, 280 mg, 1.05 eq | ClC1=C(C(=O)NC2=CC(=CC=C2)Cl)C=CC=N1 | C12H8Cl2N2O
reactant | 4-amino-1-benzylpiperidine | 1.0 mmol | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | potassium carbonate | 1.3 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | ortho-xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(1-Benzylpiperidin-4-ylamino)-N-(3-chlorophenyl)nicotinamide | Yield: 66.5% | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C(=O)NC2=CC(=CC=C2)Cl)C=CC=N1 | C24H25ClN4O
